US04584373
338 g (2.77 mols) of 1-bromo-3-methyl-butan-2-one were rapidly added dropwise to a mixture of 357 g (2.78 mols) of 4-chlorophenol and 483 g (3.5 mols) of potassium carbonate in 2.5 liters of methyl ethyl ketone. The mixture was heated under reflux for 16 hours and then filtered. The filtrate was concentrated by stripping off the solvent under reduced pressure, the residue was taken up in methylene chloride and the organic phase was washed twice with 2N aqueous sodium hydroxide solution, once with water and once with saturated aqueous sodium chloride solution. After drying, the organic phase was concentrated by stripping off the solvent. The residue which remained was distilled under a high vacuum. 435 g (74% of theory) of 1-(4-chlorophenoxy)-3-methyl-butan-2-one were obtained in this manner.

reactant | 1-bromo-3-methyl-butan-2-one | 2.77 mols, 338 g | BrCC(C(C)C)=O | C5H9BrO
reactant | 4-chlorophenol | 2.78 mols, 357 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 3.5 mols, 483 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 2.5 liters | C(C)C(=O)C | C4H8O
product | 1-(4-chlorophenoxy)-3-methyl-butan-2-one | 435 g, 74% | ClC1=CC=C(OCC(C(C)C)=O)C=C1 | C11H13ClO2
